US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (400 mg, 2.0 mol), 2,4-dimethoxyaniline (305 mg, 2.0 mmol) reacted to give 1-[4-acetyl-1-(2,4-dimethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone as yellow solid: MS (ESI) 316 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 2.0 mol, 400 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 2,4-dimethoxyaniline | 2.0 mmol, 305 mg | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | 1-[4-acetyl-1-(2,4-dimethoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OC)OC)C)C(C)=O | C18H21NO4
